US07442709B2
Trimethyl orthoformate (9.0 mL, 81 mmol) and p-toluenesulphonic acid (384 mg, 2.0 mmol) were added to a solution of N2-[4-(benzyloxy)phenyl]-5-bromopyridine-2,3-diamine (3 g, 8.1 mmol) in dichloromethane (40 mL) and the reaction mixture stirred at rt for 4 h. Next, the precipitated material was collected by filtration, redissolved in CH2Cl2 and the solution washed with 10% NaOH(aq) (200 mL) and brine (200 mL), then dried over MgSO4 and concentrated in vacuo to afford 3-[4-(benzyloxy)phenyl]-6-bromo-3H-imidazo[4,5-b]pyridine. 1H NMR (400 MHz, CDCl3) δ 5.14 (s, 2H), 7.16 (d, J=8.8 Hz, 2H), 7.33-7.47 (m, 5H), 7.58 (d, J=8.8 Hz, 2H), 8.25 (s, 1H), 8.28 (d, J=2 Hz, 2H) and 8.46 (d, J=2 Hz, 2H); MS (ES+): m/z 380 [Br79MH+], 382 [Br81MH+].

reactant | Trimethyl orthoformate | 81 mmol, 9.0 mL | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulphonic acid | 2.0 mmol, 384 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N2-[4-(benzyloxy)phenyl]-5-bromopyridine-2,3-diamine | 8.1 mmol, 3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=C(C=C1N)Br | C18H16BrN3O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-[4-(benzyloxy)phenyl]-6-bromo-3H-imidazo[4,5-b]pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C=NC=2C1=NC=C(C2)Br | C19H14BrN3O
